US05217976
A mixture of 4'-[(5,7-diethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-1-yl)methyl]biphenyl-2-sulphonamide (250 mg), acetyl chloride (2 ml) and acetic acid (1 ml) was heated at reflux for 4 hours. The mixture was then concentrated by evaporation and the residue was purified by repeated precipitation from ethanol solution by the addition of ether to give N-acetyl-4'-[(5,7-diethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-1-yl)methyl]biphenyl-2-sulphonamide hydrochloride as an amorphous solid (153 mg): NMR (d6 -DMSO): 1.27(t, 3H), 1.31(t, 2H), 1.69(s, 3H), 2.99(q, 2H), 3.36(q, 2H), 5,63(s, 2H), 6.98(d, 1H), 7.2-7.4(complex m, 5H), 7.5-7.8(m, 3H), 8.06(dd, 1H), 8.40(d, 1H), 11.53(s, 1H); mass spectrum (+ve FAB, methanol/NBA): 490 (M+H)+ ; microanalysis, found: C, 59.9; H, 5.4; N, 7.7%; C27H27N3O4S.HCl.H2O requires: C, 59.6; H, 5.5; N, 7.7%.

reactant | 4'-[(5,7-diethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-1-yl)methyl]biphenyl-2-sulphonamide | 250 mg | C(C)C1=C2C=CC(N(C2=CC(=N1)CC)CC1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N)=O | C25H25N3O3S
reactant | acetyl chloride | 2 ml | C(C)(=O)Cl | C2H3ClO
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | N-acetyl-4'-[(5,7-diethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-1-yl)methyl]biphenyl-2-sulphonamide hydrochloride | 153 mg | Cl.C(C)(=O)NS(=O)(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CN1C(C=CC2=C(N=C(C=C12)CC)CC)=O | InChI=1S/C27H27N3O4S.ClH/c1-4-21-16-25-23(24(5-2)28-21)14-15-27(32)30(25)17-19-10-12-20(13-11-19)22-8-6-7-9-26(22)35(33,34)29-18(3)31;/h6-16H,4-5,17H2,1-3H3,(H,29,31);1H
